US05260310
20.6 g of thiomorpholine were added dropwise to a solution of 13.6 g of methyl malonate monochloride in 100 ml of methylene chloride. After stirring the mixture was diluted with 200 ml of methylene chloride, washed with water in a separating funnel, then dried, filtered and evaporated. The residue was purified by chromatography on silica gel with methylene chloride and then methylene chloride/acetone (1:1). There were obtained 17.6 g of methyl tetrahydro-b-oxo-4H-1,4-thiazine-4-propionate.

reactant | thiomorpholine | 20.6 g | N1CCSCC1 | C4H9NS
reactant | methyl malonate monochloride | 13.6 g | [Cl-].C(CC(=O)[O-])(=O)OC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | methyl tetrahydro-b-oxo-4H-1,4-thiazine-4-propionate | 17.6 g | O=C(CC(=O)OC)N1CCSCC1 | C8H13NO3S
